US08258152B2
1-(2-Fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide
1-(2-Fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide (29 mg, 0.06 mmol) was dissolved in 0.067 M methanolic HCl solution (2.3 ml, 0.15 mmol) and stirred at room temperature for 1.5 hours. The reaction mixture was concentrated in vacuo then azeotroped with toluene (2×15 ml). Purification by flash chromatography (NH2-SPE, dichloromethane, ethyl acetate, 20:80 methanol:dichloromethane, 5:35:60 triethylamine:methanol:dichloromethane) followed by trituration in acetonitrile afforded the product as a cream solid (13 mg, 49%). LCMS (Method A): RT=4.53 min, (M−H)−=484, M+H+=486. 1H NMR (CD3OD): 3.60 (2H, m), 3.85 (1H, m), 3.91 (1H, dd, J=10.2, 6.8 Hz), 4.02 (1H, dd, J=10.2, 3.8 Hz), 5.93 (2H, s), 6.66 (1H, t, J=8.0 Hz), 7.13 (1H, s), 7.43 (1H, dd, J=8.0, 1.6 Hz), 7.52 (1H, dd, J=9.7, 1.6 Hz), 7.80 (1H, d, J=5.5 Hz), 8.22 (1H, d, br, J=5.5 Hz), 8.97 (1H, s).

reactant | 1-(2-Fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 0.06 mmol, 29 mg | CC1(OC[C@@H](O1)CONC(=O)C1=CC=2C(=CN=CC2)N1CC1=C(C=C(C=C1)I)F)C | C21H21FIN3O4
reactant | HCl | 0.15 mmol, 0.067 M, 2.3 ml | Cl | ClH
product | 1-(2-Fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide | 13 mg, 49% | O[C@@H](CONC(=O)C1=CC=2C(=CN=CC2)N1CC1=C(C=C(C=C1)I)F)CO | C18H17FIN3O4
